US04009275
A mixture of 0.4 g of lithium aluminum hydride, 2.2 g of 8-{3-(2-chloro-4-fluorophenoxy)propionyl}-1-phenyl-4-oxo-1,3,8-triazaspiro[4,5]decane and 40 ml of tetrahydrofuran was heated under reflux for 3 hours. To the reaction mixture were added gradually water and chloroform under cooling, and the precipitate was filtered off. The organic layer was separated, dried over sodium sulfate and evaporated under reduced pressure. The residue was triturated with ether, cooled and filtered to give 8-{3-(2-chloro-4-fluorophenoxy)propyl}-1-phenyl-4-oxo-1,3,8-triazaspiro-[4,5]decane, m.p. 154° - 155° C; recrystallized from benzenecyclohexane, m.p. 155° - 156° C.

reactant | lithium aluminum hydride | 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-{3-(2-chloro-4-fluorophenoxy)propionyl}-1-phenyl-4-oxo-1,3,8-triazaspiro[4,5]decane | 2.2 g | ClC1=C(OCCC(=O)N2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=CC(=C1)F | C22H23ClFN3O3
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-{3-(2-chloro-4-fluorophenoxy)propyl}-1-phenyl-4-oxo-1,3,8-triazaspiro-[4,5]decane | ClC1=C(OCCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=CC(=C1)F | C22H25ClFN3O2
